US09062004B2
4-Bromo-5-(2-morpholinoethyl)amino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one was prepared from 4,5-Dibromo-2-(3,3,5,5-tetramethyl cyclohexyl)pyridazin-3-one in a similar manner using 2-Morpholinoethyl amine (4 equivalents). 1H NMR (300 MHz CDCl3) 7.51 (s, 1H), 5.67 (m, 1H), 5.33 (m, 1H), 3.78 (m, 4H), 3.38 (m, 2H), 2.70 (m, 2H), 2.52 (m, 4H), 1.55 (m, 4H), 1.3 (m, 1H), 1.15 (m, 1H), 1.15 (s, 6H), 0.95 (s, 6H)

reactant | 4,5-Dibromo-2-(3,3,5,5-tetramethyl cyclohexyl)pyridazin-3-one | BrC=1C(N(N=CC1Br)C1CC(CC(C1)(C)C)(C)C)=O | C14H20Br2N2O
reactant | 2-Morpholinoethyl amine | 4 equivalents | O1CCN(CC1)CCN | C6H14N2O
product | 4-Bromo-5-(2-morpholinoethyl)amino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | BrC=1C(N(N=CC1NCCN1CCOCC1)C1CC(CC(C1)(C)C)(C)C)=O | C20H33BrN4O2
